US06121285
4-(R)-(1-tert-Butoxycarbonylaminocyclopropyl)-3-(S)-fluoro-1-[1-(S)-phenylethyl]pyrrolidine
Under a nitrogen atmosphere, a 1 M solution of borane-tetrahydrofuran complex in tetrahydrofuran (120 ml) was added dropwise under ice cooling into a solution of 4-(R)-(1-tert-butoxycarbonylaminocyclopropyl)-3-(S)-fluoro-1-[1-(S)-phenylethyl]-2-pyrrolidone in tetrahydrofuran (120 ml) and the mixture was stirred at room temperature for 5 hours. After evaporating the solvent under reduced pressure, a solvent mixture (200 ml) of ethanol with water (4:1) and triethylamine (20 ml) were added to the residue followed by heating under reflux for 2 hours. Then, the liquid reaction mixture was concentrated under reduced pressure and chloroform (400 ml) was added to the residue. After washing with a saturated aqueous solution of sodium chloride, the organic layer was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated under reduced pressure and the residue was subjected to flash silica gel column chromatography (eluent:n-hexane:ethyl acetate=1:2) to obtain 7.84 g (99.4%) of the title compound as a colorless oily substance.

reactant | 4-(R)-(1-tert-butoxycarbonylaminocyclopropyl)-3-(S)-fluoro-1-[1-(S)-phenylethyl]-2-pyrrolidone | C(C)(C)(C)OC(=O)NC1(CC1)[C@@H]1[C@@H](C(N(C1)[C@@H](C)C1=CC=CC=C1)=O)F | C20H27FN2O3
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 4-(R)-(1-tert-Butoxycarbonylaminocyclopropyl)-3-(S)-fluoro-1-[1-(S)-phenylethyl]pyrrolidine | 7.84 g, 99.4% | C(C)(C)(C)OC(=O)NC1(CC1)[C@@H]1[C@@H](CN(C1)[C@@H](C)C1=CC=CC=C1)F | C20H29FN2O2
